US09334278B2
A mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (125 mg, 292 μmol), N-methylpyridin-3-amine (47.4 mg, 439 μmol), xantphos (50.8 mg, 87.7 μmol), Pd2(dba)3 (26.8 mg, 29.2 μmol) and cesium carbonate (191 mg, 585 μmol) in dioxane (2 mL) was heated in a microwave at 150° C. for 20 min. The mixture was cooled and then filtered through a pad of celite. The filtrate was concentrated in vacuo then purified by chromatography (silica, ethyl acetate in hexanes) to give N-tert-butyl-2-(methyl(pyridin-3-yl)amino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (38 mg, 83.6 μmol, 29%) as a yellow gum. (EI/CI) m/z: 455.4 [M+H].

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 292 μmol, 125 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | N-methylpyridin-3-amine | 439 μmol, 47.4 mg | CNC=1C=NC=CC1 | C6H8N2
reactant | xantphos | 87.7 μmol, 50.8 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 585 μmol, 191 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 29.2 μmol, 26.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-tert-butyl-2-(methyl(pyridin-3-yl)amino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 83.6 μmol, 38 mg, 29% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)N(C=2C=NC=CC2)C)COCC[Si](C)(C)C | C23H34N6O2Si
